US05610144
By proceeding in a fashion similar to that described in Example 9, but starting from 1.8 g of benzyl (2RS,5SR)-4-{3-{2-[2-(3-hydroxyphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetate in solution in 30 cm3 of methanol and 0.27 g of potassium hydroxide in solution in 6 cm3 of water, and after treatment and crystallization in diethyl ether, 0.5 g of (2RS,5SR)-4-{3-{2-[2(3-hydroxyphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetic acid, melting at 260° C., is obtained.

reactant | benzyl (2RS,5SR)-4-{3-{2-[2-(3-hydroxyphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetate | 1.8 g | OC=1C=C(C=CC1)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1)=O)=O | C34H33N3O5
solvent | methanol | 30 cm3 | CO | CH4O
product | (2RS,5SR)-4-{3-{2-[2(3-hydroxyphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetic acid | 0.5 g | OC=1C=C(C=CC1)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC1=CC=C(C=C1)CC(=O)O)=O)=O | C27H27N3O5
